US06531477B1
1-(2,4,6-Trichlorophenyl)-3-isopropyl-6-(4-(hydroxymethyl)benzyl)pyrazolo[3,4-d]pyrimidin-4-one
To a stirred solution of 347 mg (1.0 mmol) of 5-amino-3-isopropyl-1-(2,4,6-trichlorophenyl)pyrazole-4-carboxamide in 6 mL of absolute ethanol was added 777 mg (4.0 mmol) of ethyl 4-(hydroxymethyl)phenylacetate followed by 2.0 mL (5.33 mmol) of 2.66 M sodium ethoxide in ethanol. The solution was stirred 18 h at reflux, and the heating mantle was then removed. The reaction was treated with 25 mL of 5% aq. HOAc, cooled to ambient temperature, and extracted with EtOAc. The organic extract was washed twice with water and once with brine, dried (MgSO4), and chromatographed on silica gel (elution with 1:1 EtOAc-hexanes) to give, after removal of solvent, 320 mg (67%) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(hydroxymethyl)benzyl)pyrazolo[3,4-d]pyrimidin-4-one as a white, amorphous solid. 1H NMR (300 MHz, CDCl3) d 11.46(br. s, 1H); 7.54(s, 2H); 7.42(d, 2H, J=8.1 Hz); 7.31(d, 2H, J=8.5 Hz); 4.66(s, 2H); 4.00(s, 2H); 3.47(septet, 1H, J=7.0 Hz); 1.48(d, 6H, J=7.0 Hz).

reactant | 5-amino-3-isopropyl-1-(2,4,6-trichlorophenyl)pyrazole-4-carboxamide | 1.0 mmol, 347 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C(C)C)C(=O)N | C13H13Cl3N4O
reactant | ethyl 4-(hydroxymethyl)phenylacetate | 4.0 mmol, 777 mg | OCC1=CC=C(C=C1)CC(=O)OCC | C11H14O3
reactant | sodium ethoxide | 5.33 mmol, 2.66 M, 2.0 mL | [O-]CC.[Na+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 1-(2,4,6-Trichlorophenyl)-3-isopropyl-6-(4-(hydroxymethyl)benzyl)pyrazolo[3,4-d]pyrimidin-4-one | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)CO)C(C)C | C22H19Cl3N4O2
